US07435823B2
6-(6,7-Dimethoxyquinolin-4-yloxy)naphthalen-1-amine (50 mg, 0.144 mmol) and benzenesulfonylchloride (25 mg, 0.144 mmol) were dissolved in pyridine (0.6 mL) then stirred at RT for 3 days. The reaction mixture was concentrated under vacuum. The crude material was purified by silica gel chromatography (2% to 4% MeOH in DCM) to give N-(6-((6,7-bis(methyloxy)-4-quinolinyl)oxy)-1-naphthalenyl)benzenesulfonamide as a tan solid. MS (ESI pos. ion) m/z: 487.1 (M+H). Calc'd for C27H22N2O5S-486.55.

reactant | 6-(6,7-Dimethoxyquinolin-4-yloxy)naphthalen-1-amine | 0.144 mmol, 50 mg | COC=1C=C2C(=CC=NC2=CC1OC)OC=1C=C2C=CC=C(C2=CC1)N | C21H18N2O3
reactant | benzenesulfonylchloride | 0.144 mmol, 25 mg | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
solvent | pyridine | 0.6 mL | N1=CC=CC=C1 | C5H5N
product | N-(6-((6,7-bis(methyloxy)-4-quinolinyl)oxy)-1-naphthalenyl)benzenesulfonamide | COC=1C=C2C(=CC=NC2=CC1OC)OC=1C=C2C=CC=C(C2=CC1)NS(=O)(=O)C1=CC=CC=C1 | C27H22N2O5S
